US06448290B1
2-nitro-5-Trifluoromethylphenyl Methoxymethyl Ether
To a solution of 2-nitro-5-trifluoromethylphenol (400 mg) in DMF (4.0 ml), sodium hydride (77 mg) was added at 0° C. in a stream of argon. The mixture was stirred for 30 minutes After stirring, methoxymethyl chloride (147 μl) was added dropwise thereto. The mixture was stirred for 20 minutes. The reaction mixture was quenched by iced water and extracted with ethyl acetate. The layer containing ethyl acetate was washed, dried over and concentrated under the reduced pressure. The residue was purified on silica gel column chromatography (hexane:AcOEt=20:1) to give the title compound (353 mg) having the following physical data.

reactant | 2-nitro-5-trifluoromethylphenol | 400 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C(F)(F)F)O | C7H4F3NO3
reactant | sodium hydride | 77 mg | [H-].[Na+]
reactant | methoxymethyl chloride | 147 μl | COCCl | C2H5ClO
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 2-nitro-5-Trifluoromethylphenyl Methoxymethyl Ether | 353 mg | COCOC1=C(C=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C9H8F3NO4
